US09119868B2
A solution of methyl 5-cyclopropyl-2-(4-fluorophenyl)-6-nitro-1-benzofuran-3-carboxylate (3.175 g, 8.94 mmol) in ethyl acetate (250 mL) containing 2M HCl (17 drops) was stirred with 10% palladium on carbon (0.951 g, 0.894 mmol) under an atmosphere of hydrogen at 21° C. for 16 hours. The reaction mixture was filtered through celite and the filtrate was evaporated under vacuum to give a dark green solid. This was dissolved in dichloromethane, washed with sodium bicarbonate solution, separated by hydrophobic frit, then evaporated to dryness and purified by flash chromatography, eluting over silica gel with a gradient of 0-30% ethyl acetate in cyclohexane. Appropriate fractions were combined and evaporated under vacuum to give the methyl 6-amino-5-cyclopropyl-2-(4-fluorophenyl)-1-benzofuran-3-carboxylate. LCMS (m/z, ES+)=326 (M+H+).

reactant | methyl 5-cyclopropyl-2-(4-fluorophenyl)-6-nitro-1-benzofuran-3-carboxylate | 8.94 mmol, 3.175 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OC)C1)[N+](=O)[O-] | C19H14FNO5
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | HCl | 2M, 17 drops | Cl | ClH
catalyst | palladium on carbon | 0.894 mmol, 0.951 g | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 6-amino-5-cyclopropyl-2-(4-fluorophenyl)-1-benzofuran-3-carboxylate | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OC)C=C1C1CC1 | C19H16FNO3
